US06649633B2
A mixture of 2.0 g (9.85 mmol.) 4-bromo-2-fluorobenzaldehyde, 2.8 g (10.8 mmol.) bis(pinacolato)diboron, 2.9 g (29.6 mmol.) potassium acetate and 216 mg (0.3 mmol.) bis(diphenylphosphino)ferrocene palladium dichloride in 60 mL dimethylformamide was heated at 80° C. for 4 hours. The mixture was cooled and 4.2 g (19.7 mmol.) methyl 3-bromobenzoate and 216 mg (0.3 mmol.) bis(diphenylphosphino)ferrocene palladium dichloride was added and the mixture heated at 80° C. for 18 hours. The mixture was poured into water and extracted with ethyl acetate. The ethyl acetate extracts were combined then washed successively with 1N NaOH, 1N HCl, water, brine then dried (MgSO4) and concentrated in vacuo to give an oil. Chromatography on Silica Gel eluting with ethyl acetate/hexanes (1:5) gave 1.4 g 3′-fluoro-4′-formyl-biphenyl-3-carboxylic acid methyl ester as an oil.

reactant | 4-bromo-2-fluorobenzaldehyde | 9.85 mmol, 2.0 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | bis(pinacolato)diboron | 10.8 mmol, 2.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 29.6 mmol, 2.9 g | C(C)(=O)[O-].[K+]
reactant | methyl 3-bromobenzoate | 19.7 mmol, 4.2 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | bis(diphenylphosphino)ferrocene palladium dichloride | 0.3 mmol, 216 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | bis(diphenylphosphino)ferrocene palladium dichloride | 0.3 mmol, 216 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | O | H2O
product | 3′-fluoro-4′-formyl-biphenyl-3-carboxylic acid methyl ester | 1.4 g | COC(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)C=O)F | C15H11FO3
